US05545636
1-N-(1-N-(Cyclopropylmethyl)-piperidin-4-yl)-indole
To a solution of 1-N-(piperidin-4-yl)-indole (0.6 g, 3 mmol) in dry ethanol (4 mL) was added anhydrous potassium carbonate (680 mg, 4.9 mmol). After stirring for 15 minutes at ambient temperature, bromomethylcyclopropane (0.29 mL,4.5 mmol) was added. Stirring was continued overnight. An additional amount of carbonate (0.22 g) and bromomethylcyclopropane (0.14 mL) was added. After 3 hours, the reaction mixture was quenched with water and extracted with ethyl acetate (3×). The combined organic phase was washed with water, dried, evaporated, and purified by column chromatography on silica gel eluting with methylene chloride/ethanol (98:2). Evaporation of the eluting solvent gave the title compound as an oil (480 mg, 63% yield).

reactant | 1-N-(piperidin-4-yl)-indole | 3 mmol, 0.6 g | N1CCC(CC1)N1C=CC2=CC=CC=C12 | C13H16N2
reactant | potassium carbonate | 4.9 mmol, 680 mg | C([O-])([O-])=O.[K+].[K+]
reactant | bromomethylcyclopropane | 4.5 mmol, 0.29 mL | BrCC1CC1 | C4H7Br
reactant | carbonate | 0.22 g | C([O-])([O-])=O
reactant | bromomethylcyclopropane | 0.14 mL | BrCC1CC1 | C4H7Br
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 1-N-(1-N-(Cyclopropylmethyl)-piperidin-4-yl)-indole | 480 mg, 63% yield | C1(CC1)CN1CCC(CC1)N1C=CC2=CC=CC=C12 | C17H22N2
